US08871753B2
Step A: N-(2-Aminoethyl)-N′-[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]urea dihydrochloride
To a solution of tert-butyl {2-[({[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]amino}carbonyl)amino]ethyl}carbamate (326 mg, 0.622 mmol) in DCM (12 mL) was added 4.0 M of hydrogen chloride in 1,4-dioxane (0.544 mL, 2.18 mmol). After stirring overnight, the reaction solution was diluted with ether. The resulting precipitate was filtered and dried under vacuum to give the desired product (245 mg, 79%). LCMS calculated for C21H23ClN7O (M+H)+: m/z=424.2.

reactant | tert-butyl {2-[({[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]amino}carbonyl)amino]ethyl}carbamate | 0.622 mmol, 326 mg | ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)NC(=O)NCCNC(OC(C)(C)C)=O)C3 | C26H30ClN7O3
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 2.18 mmol, 0.544 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-(2-Aminoethyl)-N′-[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]urea dihydrochloride | 245 mg, 79% | Cl.Cl.NCCNC(=O)NC=1C=CC=2NC3=C(C=NC(NC=4C=CC=C(CCC1C2)C4)=N3)Cl | InChI=1S/C21H22ClN7O.2ClH/c22-17-12-25-20-27-15-3-1-2-13(10-15)4-5-14-11-16(26-19(17)29-20)6-7-18(14)28-21(30)24-9-8-23;;/h1-3,6-7,10-12H,4-5,8-9,23H2,(H2,24,28,30)(H2,25,26,27,29);2*1H
